US06900209B2
Step 3: 3-(5-Methylisoxazol-3-yl)-6-(6-[morpholin-4-yl]pyridin-2-ylmethoxy)[1,2,4]triazolo-[3,4-α]phthalazine
The reaction was carried out according to Example 1 step 4 using (6-(morpholin-4-yl)pyridin-2-yl)methanol (96 mg, 0.49 mmol) and 6-chloro-3-(5-methylisoxazol-3-yl)-[1,2,4]triazolo[3,4-α]phthalazine (141 mg, 0.49 mmol). The crude residue was purified by column chromatography on silica using 2% MeOH/CH2Cl2 containing 1% NH3 to yield, after recrystallisation from CH2Cl2/iso-hexanes, the desired phthalazine (101 mg, 46%). 1H NMR (360 MHz, CDCl3) δ 8.70 (1H, d, J=8.1 Hz), 8.31 (1H, d, J=8.0 Hz), 8.00-7.91 (1H, m), 7.85-7.78 (1H, m), 7.58-7.50 (1H, m), 6.97 (1H, d, J=7.2 Hz), 6.80 (1H, s), 6.61 (1H, d, J=8.5 Hz), 5.60 (2H, s), 3.82 (4H, t, J=5.1 Hz), 3.54 (4H, t, J=5.1 Hz), 2.57 (3H, s). m/z (ES+) 444 (M+H+).

reactant | (6-(morpholin-4-yl)pyridin-2-yl)methanol | 0.49 mmol, 96 mg | N1(CCOCC1)C1=CC=CC(=N1)CO | C10H14N2O2
reactant | 6-chloro-3-(5-methylisoxazol-3-yl)-[1,2,4]triazolo[3,4-α]phthalazine | 0.49 mmol, 141 mg | ClC1=NN2C(C3=CC=CC=C13)=NN=C2C2=NOC(=C2)C | C13H8ClN5O
product | 3-(5-Methylisoxazol-3-yl)-6-(6-[morpholin-4-yl]pyridin-2-ylmethoxy)[1,2,4]triazolo-[3,4-α]phthalazine | CC1=CC(=NO1)C1=NN=C2N1N=C(C1=CC=CC=C21)OCC2=NC(=CC=C2)N2CCOCC2 | C23H21N7O3
